US04117129
Methyl-3-[o-nitrophenoxy]-1-methyl-indole-2-carboxylate.
6.73g (0.16 mole) of 57% sodium hydride in mineral oil was washed with hexane and suspended in 500ml of THF. To this was added 43.4g (0.139 mole) of methyl-3-[o-nitrophenoxy]-indole-2-carboxylate. The mixture was stirred at reflux for 1 hour, then 42.6g (0.3 mole) of methyl iodide was added and reflux continued for 3 hours. Water (5ml) was added, the THF removed by distillation and the gummy residue recrystallized from isopropanol to give analytical material as yellow needles, mp. 119°-121°.

reactant | sodium hydride | 0.16 mole, 6.73g | [H-].[Na+]
reactant | methyl-3-[o-nitrophenoxy]-indole-2-carboxylate | 0.139 mole, 43.4g | COC(=O)C=1NC2=CC=CC=C2C1OC1=C(C=CC=C1)[N+](=O)[O-] | C16H12N2O5
reactant | methyl iodide | 0.3 mole, 42.6g | CI | CH3I
reactant | Water | 5ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 500ml | C1CCOC1 | C4H8O
product | Methyl-3-[o-nitrophenoxy]-1-methyl-indole-2-carboxylate | COC(=O)C=1N(C2=CC=CC=C2C1OC1=C(C=CC=C1)[N+](=O)[O-])C | C17H14N2O5
